US08067445B2
Step 6: {4′-Amino-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester
To a solution of {2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-nitro-biphenyl-3-yl}-acetic acid ethyl ester (0.70 g, 1.75 mmol) in EtOH (70 mL) was added tin (II) chloride (1.97 g, 8.75 mmol). The reaction was heated to reflux for 5 h, and then the mixture was acidified to pH 1 with concentrated HCl and diluted with EtOAc. The resulting biphasic mixture was filtered through Celite, and the organic layer was separated. The aqueous layer was neutralized to pH 7 with solid NaOH and extracted with EtOAc. The combined organic extracts were dried and filtered, and the residue was purified by silica gel chromatography to give the title compound.

reactant | {2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-4′-nitro-biphenyl-3-yl}-acetic acid ethyl ester | 1.75 mmol, 0.70 g | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)[N+](=O)[O-])CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H30N2O7
reactant | tin (II) chloride | 8.75 mmol, 1.97 g | [Sn](Cl)Cl
reactant | HCl | Cl | ClH
solvent | EtOH | 70 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | {4′-Amino-2′-[(benzyloxycarbonyl-ethyl-amino)-methyl]-6-methoxy-biphenyl-3-yl}-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)N)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C28H32N2O5
